US07144881B2
Step A: 3-(3-Fluoro-phenyl)-N-methoxy-N-methyl-acrylamide
A mixture of 3-fluorocinnamic acid (16.6 g), EDAC.HCl (23 g), DMAP (12.2 g), triethylamine (28 mL), and NH2OMe.HCl (12 g) in CH2Cl2 (300 mL) was stirred at room temperature for 16 h. The reaction was quenched with water, and the organic layer was washed with brine, dried over MgSO4 and filtered. The filtrated was evaporated in vacuo, and the crude product was purified by silica gel flash chromatography eluting with 33% hexanes in ethyl acetate gave the title compound (20.2 g) as a solid.

reactant | 3-fluorocinnamic acid | 16.6 g | FC=1C=C(C=CC(=O)O)C=CC1 | C9H7FO2
reactant | EDAC.HCl | 23 g | CCN=C=NCCCN(C)C.Cl
reactant | triethylamine | 28 mL | C(C)N(CC)CC | C6H15N
reactant | NH2OMe.HCl | 12 g | NOC.Cl
catalyst | DMAP | 12.2 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-Fluoro-phenyl)-N-methoxy-N-methyl-acrylamide | 20.2 g | FC=1C=C(C=CC1)C=CC(=O)N(C)OC | C11H12FNO2
